US07531561B2
2-(1-adamantyl)-4-benzyl-[1,2,4]thiadiazolidine-3,5-dione (3)
Reagents: Benzylisothiocyanate (6.5 mmol, 0.85 mL), 1-Adamantyl-isocyanate (6.5 mmol, 1.15 g) and SO2Cl2 (6.5 mmol, 0.52 mL) in diethyl ether (25 mL). Isolation: solvent evaporation.

reactant | Benzylisothiocyanate | 6.5 mmol, 0.85 mL | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | 1-Adamantyl-isocyanate | 6.5 mmol, 1.15 g | C12(CC3CC(CC(C1)C3)C2)N=C=O | C11H15NO
reactant | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | 2-(1-adamantyl)-4-benzyl-[1,2,4]thiadiazolidine-3,5-dione | C12(CC3CC(CC(C1)C3)C2)N2SC(N(C2=O)CC2=CC=CC=C2)=O | C19H22N2O2S
